US03979416
In 200 ml of dry ethyl ether, (C2H5)2O, was dissolved 1.93 g of 4-nitrophthalic anhydride (~1% solution) to which was added 0.10 g of 5% palladium-on-charcoal and the mixture hydrogenated in a Paar hydrogenator at 39 psi at room temperature, until no more hydrogen was consumed. The catalyst was removed by filtration and the ether removed from the filtrate, maintained at 0° to -5°C, under vacuo, yielding a yellow crystalline solid mixed with non-crystalline viscous mass. When a small sample of this mixture was placed on a metal plate heated to 245°C, the product melted and polymerized immediately to a tough polymer. Extraction of the crystalline-non-crystalline mixture with ether left 0.46 g of polymer; concentration of the ether followed by cooling, yielded 0.86 g of 4-aminophthalic anhydride.

reactant | 4-nitrophthalic anhydride | 1.93 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | hydrogen | [H][H] | H2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | (C2H5)2O | CCOCC | C4H10O
catalyst | palladium-on-charcoal | 0.10 g | [Pd] | Pd
product | 4-aminophthalic anhydride | 0.86 g | NC=1C=C2C(C(=O)OC2=O)=CC1 | C8H5NO3
